US05403854
Preparation of 3-(isoquinolin-5-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione
To a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (5.00 g, 29.4 mmol) in absolute ethanol (100 mL) was added a suspension of 5-aminoisoquinoline (4.24 g, 29.4 mmol) in ethanol (50 mL). The mixture was heated to reflux overnight and then filtered to yield 2.30 g (29%) of solid: mp 182(dec) ° C.

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 29.4 mmol, 5.00 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 5-aminoisoquinoline | 29.4 mmol, 4.24 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(isoquinolin-5-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | 2.30 g, 29% | C1=NC=CC2=C(C=CC=C12)NC=1C(C(C1OCC)=O)=O | C15H12N2O3
